US07323472B2
4-(2,6-Difluoro-phenylamino)-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-fluorophenylboronic acid to give the title compound 4-(2,6-difluoro-phenylamino)-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ0.31 (s, 3H), 6.98-7.20 (m, 3H), 7.26 (m, 2H), 7.38-7.42 (m, 2H), 9.79 (s, 1H), 10.39 (br s, 1H). LC MS (m/e)=376 (MH+).

reactant | 4-chloro-6-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC1=C(C=CC=C1F)F)SC | C12H8ClF2N3OS
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 4-(2,6-difluoro-phenylamino)-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | FC1=C(C(=CC=C1)F)NC1=NC(=NC(=C1C=O)C1=C(C=CC=C1)F)SC | C18H12F3N3OS
